US09029409B2
To a stirred solution of N-(4-fluoro-3-methoxybenzyl)-6-((hydroxyimino)methyl)-2-methyl pyrimidine-4-carboxamide (3.84 g, 12.08 mmol, Preparation #9) and ((2S,5S)-5-vinyl-1,4-dioxan-2-yl)methyl 4-methylbenzenesulfonate (3.0 g, 10.06 mmol, Preparation#11) in CHC3 (30 mL), was added iodobenzene diacetate (6.48 g, 20.13 mmol, Aldrich) portion wise (divided in to 4 equal portions and added over a period of 4 hrs). After the addition is completed, the reaction mixture was stirred for another 5 h and quenched with water (100 mL). The product was extracted with DCM (2×100 mL). Combined organic layers were washed with brine solution (100 mL), dried over sodiumsulphate and evaporated to dryness. The residue obtained containing two diastereomers and other impurities was purified by flash column chromatography using silica gel (230-400 mesh) eluting with 40% EtOAc in n-hexane. First eluting compound fractions were combined and evaporated to dryness under reduced pressure, triturated with 40% EtOAc in hexane to afford ((2S,5R)-5-((S)-3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)-1,4-dioxan-2-yl)methyl 4-methylbenzenesulfonate 1.5 g (24%). 1H NMR (400 MHz, CDCl3): δ 8.48 (s, 1H), 8.28 (t, J=6.4 Hz, 1H), 7.79 (d, J=8 Hz, 2H), 7.36 (d, J=8 Hz, 2H), 7.08-6.96 (m, 2H), 6.90-6.86 (m, 1H), 4.68-4.60 (m, 3H), 4.02-3.93 (m, 2H), 3.88 (s, 3H), 3.85-3.72 (m, 5H), 3.59-3.38 (m, 5H), 2.75 (s, 3H), 2.42 (s, 3H); MS m/z: 615 (m+H)+.

reactant | N-(4-fluoro-3-methoxybenzyl)-6-((hydroxyimino)methyl)-2-methyl pyrimidine-4-carboxamide | 12.08 mmol, 3.84 g | FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)C=NO)C)C=C1)OC | C15H15FN4O3
reactant | ((2S,5S)-5-vinyl-1,4-dioxan-2-yl)methyl 4-methylbenzenesulfonate | 10.06 mmol, 3.0 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1OC[C@@H](OC1)C=C | C14H18O5S
reactant | iodobenzene diacetate | 20.13 mmol, 6.48 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
product | ((2S,5R)-5-((S)-3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)-1,4-dioxan-2-yl)methyl 4-methylbenzenesulfonate | 1.5 g, 24% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1OC[C@@H](OC1)[C@@H]1CC(=NO1)C1=NC(=NC(=C1)C(NCC1=CC(=C(C=C1)F)OC)=O)C | C29H31FN4O8S
